US07037938B2
To a mixture of 3-(4-hydroxyphenyl)propanoic acid (15.0 g), (1R)-2-amino-1-(3-chlorophenyl)ethanol hydrochloride (18.8 g), and 1-hydroxybenzotriazole (14.6 g) in N,N-dimethylformamide (100 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26.0 g), and the mixture was stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed successively with sodium bicarbonate solution and brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-3-(4-hydroxyphenyl)propanamide (11.61 g) as a white amorphous powder.

reactant | 3-(4-hydroxyphenyl)propanoic acid | 15.0 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | (1R)-2-amino-1-(3-chlorophenyl)ethanol hydrochloride | 18.8 g | Cl.NC[C@H](O)C1=CC(=CC=C1)Cl
reactant | 1-hydroxybenzotriazole | 14.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 26.0 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-3-(4-hydroxyphenyl)propanamide | 11.61 g | ClC=1C=C(C=CC1)[C@H](CNC(CCC1=CC=C(C=C1)O)=O)O | C17H18ClNO3
